US06297269B1
3-[(5-Chloro-1H-indole-2-carbonyl)-amino]-(2RS)-hydroxy-propionic acid
(RS)-3-amino-2-hydroxypropionic acid methyl ester hydrochloride (6.6 mmol) and 5-chloro-1H-indole-2-carboxylic acid (6.6 mmol) were coupled according to Procedure A (except that acid, then base extraction was performed, and during the first acid wash a precipitate appeared so the mixture was filtered and the filtrate carried on in the usual manner of Procedure A). The crude product (920 mg) was dissolved in methanol and treated with 1N NaOH (6.6 mL) for 2 hours at 25° C. 1N NaOH was added (6.6 mL) and the mixture was concentrated, the residue dissolved in ethyl acetate, and the resulting solution washed with 2N HCl, brine, dried, and concentrated. The resulting colorless solid was stirred in chloroform and filtered giving the title substance: Yield 763 mg, 40%; HPLC (60/40) 2.86 minutes (89%); mp 214-215° C.; PBMS 283/285 (MH+, 100%); 1H NMR (DMSO-d6) δ11.78 (s, 1H), 8.62 (t, 1H), 7.70 (d, 1H, J=2 Hz), 7.42 (d, 1H, J=8.7 Hz), 7.17 (dd, 1H, J=2, 8.7 Hz), 7.14 (d, 1H, J=2 Hz), 4.18 (dd, 1H, J=5, 8 Hz), 3.58 (m, 2H).

reactant | (RS)-3-amino-2-hydroxypropionic acid methyl ester hydrochloride | 6.6 mmol | Cl.COC(C(CN)O)=O
reactant | 5-chloro-1H-indole-2-carboxylic acid | 6.6 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 3-[(5-Chloro-1H-indole-2-carbonyl)-amino]-(2RS)-hydroxy-propionic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)NCC(C(=O)O)O | C12H11ClN2O4
